US08486943B2
(S)-7-Cyano-4-(3-fluoro-2-methoxybenzyl)-1,2,3,4-tetrahydrocyclopenta[b]indol-2-ylcarbamic acid isopropyl ester
A solution of (S)-7-cyano-1,2,3,4-tetrahydrocyclopenta[b]indol-2-ylcarbamic acid isopropyl ester (1.50 g, 5.29 mmol) and 1-(chloromethyl)-3-fluoro-2-methoxybenzene (1.11 g, 6.35 mmol) in N,N-dimethylformamide (10 mL) is treated with cesium carbonate (2.59 g, 7.94 mmol) at room temperature and stirred overnight under nitrogen. The reaction mixture is diluted with water and ether/hexanes. The white solids that crash out of solution are filtered, rinsed with water, ether, hexanes, and dried under vacuum at 50° C. for 48 h to obtain the title compound as a white solid (2.18 g, 98%). LC-ES/MS m/z 422.2 [M+H]+, TR=4.57 min.

reactant | (S)-7-cyano-1,2,3,4-tetrahydrocyclopenta[b]indol-2-ylcarbamic acid isopropyl ester | 5.29 mmol, 1.50 g | C(C)(C)OC(N[C@H]1CC2=C(NC=3C=CC(=CC23)C#N)C1)=O | C16H17N3O2
reactant | 1-(chloromethyl)-3-fluoro-2-methoxybenzene | 6.35 mmol, 1.11 g | ClCC1=C(C(=CC=C1)F)OC | C8H8ClFO
reactant | cesium carbonate | 7.94 mmol, 2.59 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (S)-7-Cyano-4-(3-fluoro-2-methoxybenzyl)-1,2,3,4-tetrahydrocyclopenta[b]indol-2-ylcarbamic acid isopropyl ester | 2.18 g, 98% | C(C)(C)OC(N[C@H]1CC2=C(N(C=3C=CC(=CC23)C#N)CC2=C(C(=CC=C2)F)OC)C1)=O | C24H24FN3O3
